US08895547B2
(S)-3-Phenyl-3-(5,6,6-trimethyl-4,4-dioxo-5-phenyl-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino)propan-1-ol
Under inert gas, 50 mg of [5-(3-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine were initially charged in 4 ml of methanol and, with addition of 18 mg of 10% Pd/C, a gentle hydrogen stream was passed through for 1 hour. The reaction solution was concentrated by rotary evaporation and the residue purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined, the acetonitrile was removed under reduced pressure, and the aqueous residue was basified with saturated aqueous sodium hydrogencarbonate solution. Subsequently, this aqueous residue was extracted with ethyl acetate, and the combined organic phases were dried over MgSO4 and concentrated by rotary evaporation. The residue was taken up again in a mixture of acetonitrile and water and lyophilized. This gave the product (22.8 mg) with a molecular weight of 402.5 g/mol (C21H26N2O4S); MS (ESI): m/e=403 (M+H+).

reactant | [5-(3-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine | 50 mg | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)N[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)(=O)=O)C | C27H39BrN2O4SSi
reactant | hydrogen | [H][H] | H2
solvent | methanol | 4 ml | CO | CH4O
catalyst | Pd/C | 18 mg | [Pd] | Pd
product | (S)-3-Phenyl-3-(5,6,6-trimethyl-4,4-dioxo-5-phenyl-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino)propan-1-ol | 22.8 mg | C1(=CC=CC=C1)[C@H](CCO)NC=1OC(C(S(N1)(=O)=O)(C1=CC=CC=C1)C)(C)C | C21H26N2O4S
